US04735744
(Synthesis of dicyclohexyl 2-benzylsulfonyl-1,4-benzoquinone-3,6-dicarboxylate [Compound No. 30])
One part of dicyclohexyl 2-benzylsulfonyl-3,6-dihydroxyterephthalate, 2 parts of electrolytic manganese dioxide and 3 parts of toluene were agitated at 35°-45° C. for 8 hours and then at its boiling point for additional 2 hours. The reaction mixture was hotfiltered and the volume of the resultant filtrate was concentrated to about 1/3. After adding ligroin to the concentrate, the resultant mixture was allowed to cool to obtain light-yellowish crystals with a yield of 60%. Upon recrystallization, they showed a melting point of 160°-162° C. Detailed analysis data of this compound, such as its elementary analysis data, are as described before.

reactant | dicyclohexyl 2-benzylsulfonyl-3,6-dihydroxyterephthalate | C(C1=CC=CC=C1)S(=O)(=O)C1=C(C(=O)OC2CCCCC2)C(=CC(=C1O)C(=O)OC1CCCCC1)O | C27H32O8S
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | dicyclohexyl 2-benzylsulfonyl-1,4-benzoquinone-3,6-dicarboxylate | yield of 60% | C(C1=CC=CC=C1)S(=O)(=O)C=1C(C(=CC(C1C(=O)OC1CCCCC1)=O)C(=O)OC1CCCCC1)=O | C27H30O8S
